US07105547B2
Difluoroacetic acid (0.031 mL, 0.48 mmol) is added to a solution of 1-[4-(5-aminomethyl-2-oxo-oxazolidin-3-yl)-2-fluoro-phenyl]-2,3-dihydro-1H-pyridin-4-one hydrochloride (0.150 g, 0.44 mmol) in DMF (1.5 mL) with pyridine (0.071 mL, 0.88 mmol), followed by addition of diisopropylcarbodiimide (0.076 mL, 0.48 mmol). The mixture is stirred at r.t. for 1 h. Most of the solvent is removed under high vacuum, and the product is purified by silica gel column chromatography (eluent: 2% MeOH in DCM). The chromatography is repeated (eluent: 1% MeOH in DCM) to afford N-{3-[3-Fluoro-4-(4-oxo-3,4-dihydro-2H-pyridin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl} difluoroacetamide as a white solid. Yield 0.065 g (39%). MS (m/z): 384 [M+H]+. 1H NMR (300 MHz, DMSO-d6) δ 9.36 (t, J=5.5 Hz, 1H), 7.82–7.49 (m, 4H), 6.44 (t, J=53.6 Hz, 1H), 5.18 (d, J=7.7 Hz, 1H), 5.03–4.98 (m, 1H), 4.38–4.32 (m, 1H), 4.07 (t, J=7.4 Hz, 2H), 3.97 (dd, J=6.3 and 9.3 Hz, 1H), 3.72 (t, J=5.5 Hz, 1H), 3.51–3.49 (m, 2H), 2.69–2.64 (m, 2H).

reactant | Difluoroacetic acid | 0.48 mmol, 0.031 mL | FC(C(=O)O)F | C2H2F2O2
reactant | 1-[4-(5-aminomethyl-2-oxo-oxazolidin-3-yl)-2-fluoro-phenyl]-2,3-dihydro-1H-pyridin-4-one hydrochloride | 0.44 mmol, 0.150 g | Cl.NCC1CN(C(O1)=O)C1=CC(=C(C=C1)N1CCC(C=C1)=O)F
reactant | pyridine | 0.88 mmol, 0.071 mL | N1=CC=CC=C1 | C5H5N
reactant | diisopropylcarbodiimide | 0.48 mmol, 0.076 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | N-{3-[3-Fluoro-4-(4-oxo-3,4-dihydro-2H-pyridin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl} difluoroacetamide | FC=1C=C(C=CC1N1CCC(C=C1)=O)N1C(OC(C1)CNC(C(F)F)=O)=O | C17H16F3N3O4
